US06562828B1
4-Hydroxymethyl-1-(pyridin-4-yl)piperidine
Under an argon atmosphere, to a solution of 1-(pyridin-4-yl)piperidine-4-carboxylic acid (Tetrahedron, vol. 44, No. 23, page 7095 (1988)) (500 mg) in tetrahydrofuran (5 ml) was added 1M borane-tetrahydrofuran solution (14.5 ml) with ice-cooling, and the mixture was stirred at room temperature for 12 hours. After completion of the reaction, the reaction mixture was poured into ice water and extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was dissolved in 12% hydrochloric acid and stirred at 50° C. for 1 hour. The reaction mixture was neutralized with aqueous sodium hydrogencarbonate and 4N aqueous sodium hydroxide solution, and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and dried under reduced pressure to give the title compound (400 mg).

reactant | 1-(pyridin-4-yl)piperidine-4-carboxylic acid | N1=CC=C(C=C1)N1CCC(CC1)C(=O)O | C11H14N2O2
reactant | borane tetrahydrofuran | 1M, 14.5 ml | B.O1CCCC1
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-Hydroxymethyl-1-(pyridin-4-yl)piperidine | 400 mg | OCC1CCN(CC1)C1=CC=NC=C1 | C11H16N2O
